US05234946
Methyl isocyanoacetate (280 microliters) and 400 microliters of 1,8-diazabicyclo5.4.0]undeca-7-ene (DBU) were added to 20 ml of tetrahydrofuran, and with stirring at 45° to 50° C., a tetrahydrofuran solution (5 ml) of 500 mg of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-(3-formylbenzyloxy)benzylamine was added, and the mixture was stirred at the above temperature for 5 hours. The reaction mixture was allowed to cool and neutralized with acetic acid. The solvent was evaporated under reduced pressure and ethyl acetate and water was added to the residue to extract it. The organic layer was separated, dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the solvent was evaporated. Then, the residue was purified by silica gel column chromatography [Wakogel C-200, 30 g, eluting solvent: hexane/ethyl acetate:5/1] to give 140 mg (yield 20%) of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-[3-(2,4-dimethoxycarbonyl-3-pyrrolyl)benzyloxy)benzylamine as a pale yellow oil.

reactant | Methyl isocyanoacetate | 280 microliters | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | undeca-7-ene | CCCCCCC=CCCC | C11H22
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-(3-formylbenzyloxy)benzylamine | 500 mg | CC(C#C/C=C/CN(C)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C=O)(C)C | C25H29NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-[3-(2,4-dimethoxycarbonyl-3-pyrrolyl)benzyloxy)benzylamine | 140 mg, yield 20% | CC(C#C/C=C/CN(C)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C1=C(NC=C1C(=O)OC)C(=O)OC)(C)C | C32H36N2O5
